US05179089
Preparation of 2-(6,7-dimethoxy-1,2,3,4-tetrahydro-1-isoquinolinylidene)-2-[2-benzoyloxy-3-(4-morpholinyl)propyl]mercaptoacetonitrile
After adding 40 ml of benzene, 1.0 g of triethylamine and 1.5 g of benzoyl chloride to 4.06 g of 2-(6,7-diethoxy-1,2,3,4-tetrahydro-1-isoquinolinylidene)-2-[2-hydroxy-3-(4-morpholinyl)propyl]mercaptoacetonitrile, the reaction mixture is refluxed for 45 minutes, then cooled down and filtered. After evaporating the filtrate, the residue crystallizes out on adding ethyl acetate to obtain the named product in a yield of 3.25 g, m.p.: 144° C. (from isopropanol).

reactant | benzene | 40 ml | C1=CC=CC=C1 | C6H6
reactant | benzoyl chloride | 1.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-(6,7-diethoxy-1,2,3,4-tetrahydro-1-isoquinolinylidene)-2-[2-hydroxy-3-(4-morpholinyl)propyl]mercaptoacetonitrile | 4.06 g | C(C)OC=1C=C2CCNC(C2=CC1OCC)=C(C#N)SCC(CN1CCOCC1)O | C22H31N3O4S
solvent | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
product | 2-(6,7-dimethoxy-1,2,3,4-tetrahydro-1-isoquinolinylidene)-2-[2-benzoyloxy-3-(4-morpholinyl)propyl]mercaptoacetonitrile | COC=1C=C2CCNC(C2=CC1OC)=C(C#N)SCC(CN1CCOCC1)OC(C1=CC=CC=C1)=O | C27H31N3O5S
